US09085555B2
(1-Carbamoyl-3-isocyanato-1H-indol-6-yl)-acetic acid ethyl ester
was prepared from (1H-indol-6-yl)-acetic acid ethyl ester using the protocol described for steps B-E in scheme A4 for the preparation of 5-allyloxy-3-isocyanato-indole-1-carboxylic acid amide.

reactant | (1H-indol-6-yl)-acetic acid ethyl ester | C(C)OC(CC1=CC=C2C=CNC2=C1)=O | C12H13NO2
reactant | 5-allyloxy-3-isocyanato-indole-1-carboxylic acid amide | C(C=C)OC=1C=C2C(=CN(C2=CC1)C(=O)N)N=C=O | C13H11N3O3
product | (1-Carbamoyl-3-isocyanato-1H-indol-6-yl)-acetic acid ethyl ester | C(C)OC(CC1=CC=C2C(=CN(C2=C1)C(N)=O)N=C=O)=O | C14H13N3O4
